US06313097B1
2-nitro-2′-[[1-(phenylmethyl)-4-piperidinyl]amino]-biphenyl
To a solution of 30.0 g (0.140 mol) of 2-amino-2′-nitrobiphenyl and 111.5 g (0.630 mol) of 1-(phenylmethyl)-4-piperidone in 1200 mL of dichloromethane were added a total of 140.5 g (0.630 mol) of sodium triacetoxyborohydride in batches whilst maintaining a reaction temperature of 0° C. and the mixture was then stirred for 14 hours at room temperature. It was made alkaline with sodium hydroxide solution, the dichloromethane phase was separated off, dried over sodium sulfate and concentrated by evaporation. The residue was digested with methanol, then filtered. The filtrate was evaporated down, the residue remaining was purified by chromatography on aluminium oxide (activity stage 3) using PE/EE 9/1 (v/v) as eluant. Corresponding fractions were combined, freed from solvent and used in the next step without further purification. Yield: 40.0 g (74% of theory).

reactant | 2-amino-2′-nitrobiphenyl | 0.140 mol, 30.0 g | NC1=C(C=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H10N2O2
reactant | 1-(phenylmethyl)-4-piperidone | 0.630 mol, 111.5 g | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | sodium triacetoxyborohydride | 0.630 mol, 140.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 1200 mL | ClCCl | CH2Cl2
product | 2-nitro-2′-[[1-(phenylmethyl)-4-piperidinyl]amino]-biphenyl | [N+](=O)([O-])C1=C(C=CC=C1)C1=C(C=CC=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C24H25N3O2
